**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*    Modeling services provided by   *
* Interface Technologies www.i-t.com *
**************************************
.SUBCKT 2n6387 1 2 3
* Model generated on Jan 18, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 1
D1 3 1 dmodel
R1 2 4 8000
R2 4 3 120
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=3.03221e-11 BF=713.828 NF=1.08054 VAF=30
+IKF=0.633791 ISE=7.39555e-10 NE=1.76121 BR=0.1
+NR=1.5 VAR=1.70187 IKR=0.189561 ISC=1.02054e-13
+NC=2.00788 RB=0.755668 IRB=0.2 RBM=0.755668
+RE=0.0002 RC=0.001 XTB=2.00368 XTI=1 EG=1.05
+CJE=1.09811e-10 VJE=0.95 MJE=0.646143 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.56103e-10
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=3.03221e-11 BF=713.828 NF=1.08054 VAF=30
+IKF=0.633791 ISE=7.39555e-10 NE=1.76121 BR=0.1
+NR=1.5 VAR=1.70187 IKR=0.189561 ISC=1.02054e-13
+NC=2.00788 RB=0.755668 IRB=0.2 RBM=0.755668
+RE=0.0002 RC=0.001 XTB=2.00368 XTI=1 EG=1.05
+CJE=1.09811e-10 VJE=0.95 MJE=0.646143 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS
